US07667041B2
Synthesis of [(3S)-1-(3,4-difluorobenzyl)pyrrolidine-3-yl]carbamic acid tert-butyl ester
To a methylene chloride (10 mL) solution of (3S)-3-(tert-butoxycarbonylamino) pyrrolidine (916 mg), 3,4-difluorobenzylbromide (0.7 mL) and IPEA (2.2 mL) were added one by one, and the reaction solution was agitated at room temperature for 20 hours. A saturated sodium bicarbonate water was added to the reaction solution after the reaction ended, and the organic layer was partitioned. It was dried over anhydrous magnesium sulfate and the obtained organic layer was concentrated under reduced pressure. 1.55 g of the title compound was obtained by purifying the residue by silica gel chromatography (elution solvent:heptane:ethyl acetate=1:1). The physical properties of the compound are as follows.

reactant | (3S)-3-(tert-butoxycarbonylamino) pyrrolidine | 916 mg | C(C)(C)(C)OC(=O)N[C@@H]1CNCC1 | C9H18N2O2
reactant | 3,4-difluorobenzylbromide | 0.7 mL | FC=1C=C(CBr)C=CC1F | C7H5BrF2
reactant | IPEA | 2.2 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | sodium bicarbonate water | O.C([O-])(O)=O.[Na+]
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | [(3S)-1-(3,4-difluorobenzyl)pyrrolidine-3-yl]carbamic acid tert-butyl ester | 1.55 g | C(C)(C)(C)OC(N[C@@H]1CN(CC1)CC1=CC(=C(C=C1)F)F)=O | C16H22F2N2O2
